US03968131
47 parts of ethylene glycol, 13.7 parts of 1-amino-4-hydroxy-2-chloroanthraquinone, 24 parts of N-methylpyrrolidone, 1.2 parts of phenol and 6 parts of potassium carbonate are heated for 6 hours at 120°-125°C under nitrogen. After working up, 10.5 parts of 1-amino-2-(2'-hydroxyethoxy)-4-hydroxyanthraquinone are obtained.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | 1-amino-4-hydroxy-2-chloroanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)Cl | C14H8ClNO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-amino-2-(2'-hydroxyethoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCCO | C16H13NO5
